US07776857B2
A RBF was charged with 3-chloro-4-ethyl-6-phenylpyridazine (250 mg, 1.143 mmol) and 5.7 mL of THF, and the mixture was cooled to −78° C. under nitrogen. Lithium diisopropylamide, 2.0 M solution in heptane/tetrahydrofuran/ethylbenzene (0.686 mL, 1.372 mmol) was added, and the mixture was stirred for 5 min at −78° C., followed by 1 h at room temperature. The mixture was cooled back down to −78° C., and methyl iodide (195 mg, 1.372 mmol) that had been passed through a plug of basic alumina prior to use was added dropwise. The reaction was stirred at this temperature for 5 min, followed by RT for 0.5 h. After quenching with water, the solution was diluted with CH2Cl2 and the layers were separated. The aqueous portion was extracted with additional CH2Cl2 and the combined organics were dried with MgSO4, filtered and concentrated. The crude material was purified by silica gel chromatography (CH2Cl2— 10% MeOH/CH2Cl2) to provide 3-chloro-4-isopropyl-6-phenylpyridazine as a colorless oil, which crystallized upon standing. MS m/z=233 [M+H]+. Calc'd for C13H13ClN2: 232.71.

reactant | 3-chloro-4-ethyl-6-phenylpyridazine | 1.143 mmol, 250 mg | ClC=1N=NC(=CC1CC)C1=CC=CC=C1 | C12H11ClN2
reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | heptane tetrahydrofuran ethylbenzene | 1.372 mmol, 0.686 mL | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
reactant | methyl iodide | 1.372 mmol, 195 mg | CI | CH3I
solvent | THF | 5.7 mL | C1CCOC1 | C4H8O
product | 3-chloro-4-isopropyl-6-phenylpyridazine | ClC=1N=NC(=CC1C(C)C)C1=CC=CC=C1 | C13H13ClN2
